US04424213
2-Thiabicyclo[2.2.1]hept-5-en-3-one oxime
A stirred solution of 33 g (0.5 m) of cyclopentadiene in 150 ml of petroleum ether was maintained at 0° to -10° C. as 23 g (0.2 m) of thiophosgene was added over 25 minutes. The colorless solution was stripped of volatiles. A solution of the residue in 200 ml of 1,2-dimethoxyethane was added over one hour at 0° C. to 2.0 m of hydroxylamine in 500 ml of water. The reaction mixture was stirred overnight and allowed to come to room temperature. A dried methylene chloride extract was stripped to yield a semi-solid residue which was purified by dry column chromatography (silica gel, ethyl ether:hexane::1:1 ). Two bands were observed. Extraction of each individually yielded 2.4 g of the less polar material, m. 87°-88° C. and 5.9 g of the more polar, m. 137°-137.5° C. The NMR and IR spectra indicate these to be the E and Z isomers of the title compound. The more polar material was identified as the Z isomer by X-ray crystallography.

reactant | cyclopentadiene | 33 g | C1=CC=CC1 | C5H6
reactant | thiophosgene | 23 g | C(=S)(Cl)Cl | CCl2S
reactant | hydroxylamine | NO | H3NO
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
solvent | water | 500 ml | O | H2O
product | 2-Thiabicyclo[2.2.1]hept-5-en-3-one oxime | C12SC(C(C=C1)C2)=NO | C6H7NOS
